US05318966
1.0 g (0.0268 mol) of lithium aluminum hydride was suspended in 50 ml of THF under argon. A solution of 4.4 g (0.0134 mol) of rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-(2-piperidinoethyl)-2H-benzo[e]indol-2-one in 100 ml of THF was added dropwise thereto and the mixture was boiled under reflux for 1 hour. 25 ml of a saturated aqueous NH4Cl solution was cautiously added dropwise thereto, the mixture was filtered and the filtrate was extracted with ethyl acetate. The organic phase was washed with water, dried with MgSO4, filtered and concentrated. There were obtained 3.8 g (90%) of rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-(2-piperidinoethyl)-1H-benzo[e]indole as a colorless oil.

reactant | lithium aluminum hydride | 0.0268 mol, 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-(2-piperidinoethyl)-2H-benzo[e]indol-2-one | 0.0134 mol, 4.4 g | COC1=CC=CC=2[C@H]3CC(N([C@H]3CCC21)CCN2CCCCC2)=O | C20H28N2O2
reactant | NH4Cl | 25 ml | [NH4+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-(2-piperidinoethyl)-1H-benzo[e]indole | 3.8 g, 90% | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCN2CCCCC2 | C20H30N2O
